US04943656
This example shows the feasibility of producing a heavy-phase concentrate of didodecylnaphthalene disulfonic acid using the double-sulfonation and controlled washing technique described above. 211 grams of didodecylnaphthalene synthesized by the alkylation of naphthalene with tetrapropylene using aluminum chloride catalyst and nitrobenzene solvent was diluted with an equal weight of heptane. This solution of "DDN" in heptane was sulfonated in two treats with 122 grams of 20% oleum per treat. After each oleum treat, the spent acid was allowed to separate and was then drawn off. The sulfonation was carried out at a temperature of 40° C. The overall mole ratio of available SO3 to alkylate was approximately 2.0:1. 441 grams of crude sulfonic acid in heptane was recovered from the reaction. 110 milliliters of heptane and 270 milliliters of hot water were added to the crude sulfonic acid in a separatory funnel and mixed well. On standing, a dense heavy-phase settled to the bottom. It contained 56.1% didodecylnaphthalene sulfonic acid in a total weight of 34.3 grams. the upper organic layer was washed several times with water. All of the washes including the heavy-phase wash were combined and yielded an additional 20.4 grams of disulfonic acid for a total yield of 39.6 grams of didodecylnaphthalene disulfonic acid.

reactant | oleum | 122 grams | OS(=O)(=O)O.O=S(=O)=O
reactant | heptane | CCCCCCC | C7H16
catalyst | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | didodecylnaphthalene disulfonic acid | yield of 39.6 grams | C(CCCCCCCCCCC)C=1C(=C(C(=C2C=CC=CC12)S(=O)(=O)O)S(=O)(=O)O)CCCCCCCCCCCC | C34H56O6S2
